US09062092B2
Compound 55c. (R)-2-Difluoromethoxymethyl-2-methyl-but-3-enoic acid
A solution of (R)-2-difluoromethoxymethyl-2-methyl-but-3-enoic acid methyl ester (159 mg, 0.8 mmol) in tetrahydrofuran (6 mL) was stirred at 5° C. under nitrogen. A solution of lithium hydroxide monohydrate (100 mg, 2.4 mmol) in water (1.5 mL) was added and the reaction mixture was stirred at 5° C. for 1 h and then at room temperature for 20 h. Water was added and the mixture was acidified to pH 2 with hydrochloric acid (2 M) and the mixture was extracted with diethyl ether. The organic extracts were combined and washed with brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated to afford the title compound (133 mg, 92%) as a clear oil. 1H NMR (300 MHz, d6-DMSO) 61.24 (s, 3H), 3.80 (d, J=9.4 Hz, 1H), 4.02 (d, J=9.4 Hz, 1H), 5.19 (dd, J=10.6 Hz, 1H), 5.20 (d, J=17.6 Hz, 1H), 5.91 (dd, J=17.6, 10.6 Hz, 1H), 6.68 (t, J=75.6 Hz, 1H), 12.5-13.0 (br s, 1H). LCMS (m/z) 179.1 [M−H], Tr=1.79 min.

reactant | (R)-2-difluoromethoxymethyl-2-methyl-but-3-enoic acid methyl ester | 0.8 mmol, 159 mg | COC([C@@](C=C)(C)COC(F)F)=O | C8H12F2O3
reactant | lithium hydroxide monohydrate | 2.4 mmol, 100 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | water | 1.5 mL | O | H2O
product | (R)-2-Difluoromethoxymethyl-2-methyl-but-3-enoic acid | 133 mg, 92% | FC(OC[C@](C(=O)O)(C=C)C)F | C7H10F2O3
